US07906541B2
Stage A: Preparation of 9-heptyl-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium iodide.
198 mg of 3-methyl[1,3]thiazolo[3,2-a]benzimidazole were added to 1-iodoheptane (3 mL). Then the mixture was stirred under reflux. After 18 h, 9-heptyl-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium iodide was recovered as a pale green powder (421 mg, 97%) by filtration. Mp 137° C.; 1H NMR (300 MHz, MeOD) δ=0.8-0.91 (3H, m, CH3), 1.22-1.54 (8H, m, 4-CH2), 2.05 (2H, quint, J=7.4, CH2), 2.95 (3H, d, J=1.3, CH3), 4.60 (2H, t, J=7.2, CH2), 7.36 (1H, q, J=1.3, H5), 7.64-7.82 (2H, m, Ar), 7.99-8.05 (1H, m, Ar), 8.26-8.32 (1H, m, Ar); 13C NMR (75 MHz, MeOD) δ=14.26, 14.35, 23.57, 27.71, 28.92, 29.89, 32.75, 48.48, 112.18, 113.78, 114.97, 126.30, 128.36, 129.01, 135.35, 137.63, 155.92; HRMS m/z C17H23N2S [M−I]+ calcd: 287.1576, found: 287.1576.

reactant | 3-methyl[1,3]thiazolo[3,2-a]benzimidazole | 198 mg | CC1=CSC2=NC3=C(N21)C=CC=C3 | C10H8N2S
reactant | 1-iodoheptane | 3 mL | ICCCCCCC | C7H15I
product | 9-heptyl-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium iodide | [I-].C(CCCCCC)[N+]1=C2N(C3=C1C=CC=C3)C(=CS2)C | InChI=1S/C17H23N2S.HI/c1-3-4-5-6-9-12-18-15-10-7-8-11-16(15)19-14(2)13-20-17(18)19;/h7-8,10-11,13H,3-6,9,12H2,1-2H3;1H/q+1;/p-1
